US04883794
3-Bromo-7-chloro-5-methylpyrrolo[1,2-b]cinnolin-10(5H)-one
To a solution of 7-chloro-5-methylpyrrolo[1,2-b]cinnolin-10(5H)-one (6.0 g) and a catalytic amount of dibenzoyl peroxide in 100 ml of THF was added portionwise N-bromosuccinimide (4.63 g) over 15 min. The flask was covered with aluminum foil and the solution was stirred at room temperature for 24 hrs. The solution was then concentrated and the residue was purified by HPLC (silica, dichloromethane) to give 7.10 g of a light green powder. This powder was recrystallized from ethanol to give 5.7 g of a yellow fibrous material, mp 133°-135°.

reactant | 7-chloro-5-methylpyrrolo[1,2-b]cinnolin-10(5H)-one | 6.0 g | ClC=1C=CC=2C(C=3N(N(C2C1)C)C=CC3)=O | C12H9ClN2O
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 4.63 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | aluminum | [Al] | Al
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-Bromo-7-chloro-5-methylpyrrolo[1,2-b]cinnolin-10(5H)-one | 7.10 g | BrC1=CC=C2N1N(C=1C=C(C=CC1C2=O)Cl)C | C12H8BrClN2O
